US08114878B2
5.2 SYNTHESIS OF 4-[4-(5-OXO-4-PROPYLAMINO-6,7-DIHYDRO-5H-5λ4-THIENO [3,2-D]PYRIMIDIN-2-YL)-PIPERAZIN-1-YL]-BENZONITRILE, EXAMPLES 34 (RACEMATE) AND 148 (ENANTIOMER 1)
Under an argon atmosphere 400 mg (5-oxo-2-piperazin-1-yl-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl)-propylamine (prepared in a similar manner to that described in Example 32), 245 mg 4-bromobenzonitrile, 321 mg palladium(II)acetate, 120 mg Xantphos and 620 mg caesium carbonate are stirred in 2.50 ml degassed toluene for 5 hours at 80° C. After cooling the reaction mixture is extracted with ethyl acetate and saturated sodium chloride solution. The organic phase is dried and evaporated to dryness. The residue is purified by preparative HPLC (method A). 282 mg of the product are obtained as a powder. Analytical HPLC-MS (method A): RT=2.37 min The two enantiomers may be separated by chiral HPLC (column: Diacel OD-H, 250×4.6 mm, 5 μm, eluant: (hexane+cyclohexylamine (0.2%))/EtOH (65/35), flow rate: 1 ml/min): enantiomer 1: RT=7.9 min (Example 148); enantiomer 2: RT=9.6 min.

reactant | (5-oxo-2-piperazin-1-yl-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl)-propylamine | 400 mg | O=S1CCC=2N=C(N=C(C21)NCCC)N2CCNCC2 | C13H21N5OS
reactant | 4-bromobenzonitrile | 245 mg | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | Xantphos | 120 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | caesium carbonate | 620 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium(II)acetate | 321 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-[4-(5-OXO-4-PROPYLAMINO-6,7-DIHYDRO-5H-5λ4-THIENO [3,2-D]PYRIMIDIN-2-YL)-PIPERAZIN-1-YL]-BENZONITRILE | 282 mg | O=S1CCC=2N=C(N=C(C21)NCCC)N2CCN(CC2)C2=CC=C(C#N)C=C2 | C20H24N6OS
